US08685986B2
2-(b) 3-[Bis(tert-butoxycarbonyl)aminomethyl]-6-phenylpyridazine
To a solution of 3-bromomethyl-6-phenylpyridazine (120 mg, 0.482 mmol) obtained in Reference Example 2-(a) in N,N-dimethylformamide (1.57 ml) were added di-tert-butyl iminodicarboxylate (127 mg, 0.585 mmol) and potassium carbonate (134 mg, 0.970 mmol), followed by stirring at 50° C. for 2 hours. After completion of the reaction, water was added to the reaction solution, followed by extraction with ethyl acetate. The separated organic layer was dried over anhydrous sodium sulfate, and then concentrated under reduced pressure. The resulting residue was subjected to silica gel column chromatography (eluent; hexane:ethyl acetate=2:1→1:1 (V/V)), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (180 mg) as a slightly yellow solid. (Yield: 97%)

reactant | 3-bromomethyl-6-phenylpyridazine | 0.482 mmol, 120 mg | BrCC=1N=NC(=CC1)C1=CC=CC=C1 | C11H9BrN2
reactant | di-tert-butyl iminodicarboxylate | 0.585 mmol, 127 mg | N(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H19NO4
reactant | potassium carbonate | 0.970 mmol, 134 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 1.57 ml | CN(C=O)C | C3H7NO
product | 3-[Bis(tert-butoxycarbonyl)aminomethyl]-6-phenylpyridazine | 180 mg, Yield: 97% | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)CC=1N=NC(=CC1)C1=CC=CC=C1 | C21H27N3O4
